US07868036B2
e) Ethyl 2-tert-butoxycarbonylamino-4-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-5-methylhexanoate
A solution of 1.94 g of ethyl 2-amino-4-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-5-methylhexanoate in 16 ml of dichloromethane at 0° C. is admixed successively with 1.11 ml of ethyldiisopropylamine and a solution of 1.2 g of di-tert-butyl dicarbonate in 4 ml of dichloromethane. The reaction mixture is stirred at room temperature overnight and then concentrated by evaporation. The title compound is identified on the basis of the Rf value from the residue by means of flash chromatography (SiO2 60F).

reactant | ethyl 2-amino-4-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-5-methylhexanoate | 1.94 g | NC(C(=O)OCC)CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC | C23H33NO4
reactant | ethyldiisopropylamine | 1.11 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 1.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | dichloromethane | 16 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | Ethyl 2-tert-butoxycarbonylamino-4-[8-(2-methoxyethoxy)naphthalen-2-ylmethyl]-5-methylhexanoate | C(C)(C)(C)OC(=O)NC(C(=O)OCC)CC(C(C)C)CC1=CC2=C(C=CC=C2C=C1)OCCOC | C28H41NO6
